US07902203B2
ethyl 2-(isopentylamino)nicotinate
A mixture of ethyl 2-chloronicotinate (3.71 g, 20 mmol), isoamylamine (3.03 mL, 26 mmol) and triethylamine (3.62 mL, 26 mmol) was heated in a sealed tube at 140° C. for 8 hours, cooled to 25C, diluted with ethyl acetate and the mixture washed with water. The organic layer was extracted with 1N aqueous hydrochloric acid. The acidic aqueous layer was adjusted to pH 8.0 with saturated sodium bicarbonate solution then extracted with ethyl acetate (2 portions). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (3.58 g, 76%). MS (DCI/NH3) m/z 237 (M+H)+. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.93 (d, J=6.25 Hz, 6 H) 1.31 (t, J=6.99 Hz, 3 H) 1.47 (q, J=6.99 Hz, 2 H) 1.64 (m, 1 H) 3.47 (m, 2 H) 4.28 (q, J=6.99 Hz, 2 H) 6.59 (dd, J=7.72, 4.78 Hz, 1 H) 7.90 (t, J=5.15 Hz, 1 H) 8.07 (dd, J=7.91, 2.02 Hz, 1 H) 8.28 (dd, J=4.78, 1.84 Hz, 1 H).

reactant | ethyl 2-chloronicotinate | 20 mmol, 3.71 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | isoamylamine | 26 mmol, 3.03 mL | C(CC(C)C)N | C5H13N
reactant | triethylamine | 26 mmol, 3.62 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(isopentylamino)nicotinate | 3.58 g, 76% | C(CC(C)C)NC1=C(C(=O)OCC)C=CC=N1 | C13H20N2O2
